US06420605B1
c) 2-Difluoromethoxy-6-fluorobenzamidoxime
A mixture of 6.4 g of 2-difluoromethoxy-6-fluorobenzonitrile and 3.1 g of hydroxylamine hydrochloride, 2.6 g of sodium carbonate, 7 ml of water and 35 ml of ethanol was stirred for 20 hours at 75° C.

reactant | 2-difluoromethoxy-6-fluorobenzonitrile | 6.4 g | FC(OC1=C(C#N)C(=CC=C1)F)F | C8H4F3NO
reactant | hydroxylamine hydrochloride | 3.1 g | Cl.NO
reactant | sodium carbonate | 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 7 ml | O | H2O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-Difluoromethoxy-6-fluorobenzamidoxime | FC(OC1=C(C(N)=NO)C(=CC=C1)F)F | C8H7F3N2O2
